US05728686
f) Diethyl 5-hydroxy-1,1-dimethylpentylphosphonate
19.9 g (0.052 mol) of diethyl 1,1-dimethyl-5-(tetrahydropyran-2-yloxy)-5-pentylphosphonate were stirred at 55° C. for 8 hours with 1.5 g (0.006 mol) of pyridinium toluene-4-sulfonate in 200 ml of aqueous ethanol. The solvent was evaporated, the residue was taken up in ethyl acetate, the solution was filtered through a silica gel column and, after evaporating the solvent, the residue was distilled in a bulb tube.

reactant | diethyl 1,1-dimethyl-5-(tetrahydropyran-2-yloxy)-5-pentylphosphonate | 0.052 mol, 19.9 g | CC(CCCC(OC1OCCCC1)P(OCC)(OCC)=O)C | C16H33O5P
reactant | pyridinium toluene-4-sulfonate | 0.006 mol, 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | Diethyl 5-hydroxy-1,1-dimethylpentylphosphonate | OCCCCC(C)(C)P(OCC)(OCC)=O | C11H25O4P
